US06583155B2
To a solution of 4-[3-(4-trifluoromethyl-phenyl)-1H-pyrazol-4-yl]-pyridine (0.5 g, 1.73 mmol) and epichlorohydrin (1.35 mL, 17.3 mmol) in DMF (2 mL) was added cesium carbonate (0.676 g, 2.07 mmol). The reaction mixture was allowed to stir for 24 h, diluted with EtOAc and washed successively with saturated NaHCO3, water, and brine. The organic layer was dried over Na2SO4, concentrated and partially purified by running through a plug of silica gel (5% acetone/CH2Cl2) to afford 4-[1-oxiranylmethyl-3-(4-trifluoromethyl-phenyl)-1H-pyrazol-4-yl]-pyridine (0.198 g, 33%) as an unstable oil. TLC (silica, 20% acetone/CH2Cl2): Rf=0.39. MS (electrospray): exact mass calculated for C18H14F3N3O, 346.1 [M+H]+, m/z found, 346.1.

reactant | 4-[3-(4-trifluoromethyl-phenyl)-1H-pyrazol-4-yl]-pyridine | 1.73 mmol, 0.5 g | FC(C1=CC=C(C=C1)C1=NNC=C1C1=CC=NC=C1)(F)F | C15H10F3N3
reactant | epichlorohydrin | 17.3 mmol, 1.35 mL | C(Cl)C1CO1 | C3H5ClO
reactant | cesium carbonate | 2.07 mmol, 0.676 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[1-oxiranylmethyl-3-(4-trifluoromethyl-phenyl)-1H-pyrazol-4-yl]-pyridine | 0.198 g, 33% | O1C(C1)CN1N=C(C(=C1)C1=CC=NC=C1)C1=CC=C(C=C1)C(F)(F)F | C18H14F3N3O
